US08957074B2
Following general Scheme 5 on a 1.023 mmole scale, 3-(6-Amino-pyridin-3-yl)-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester was combined with 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide which yielded after SiO2 gel Chromatograped (5-8% CH3OH-ethyl acetate), 0.57 grams (95% yield) of 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester, TLC RF 0.4 in 5% CH3OH-ethyl acetate, MS m/z 589 (M+H)+

reactant | 3-(6-Amino-pyridin-3-yl)-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(C(CC1CC2)=O)C=2C=NC(=CC2)N | C17H24N4O3
reactant | 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCC2 | C14H17ClN4O
solvent | CH3OH ethyl acetate | CO.C(C)(=O)OCC
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-4-oxo-3,9-diaza-bicyclo[4.2.1]nonane-9-carboxylic acid tert-butyl ester | 0.57 grams, 95% yield | C(C)(C)(C)OC(=O)N1C2CN(C(CC1CC2)=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C31H40N8O4
